US09233919B2
Synthesis of 4-fluorophenyldiphenylsulfonium 1,1,3,3,3-pentafluoro-2-(methacryloyloxy)propane-1-sulfonate (PAG-1)
An amount (corresponding to 0.05 mole) of an aqueous solution of 4-fluorophenyldiphenylsulfonium bromide in Synthesis Example 1 and 22.4 g (0.05 mole) of benzyltrimethylammonium 1,1,3,3,3-pentafluoro-2-(methacryloyloxy)propane-1-sulfonate in Synthesis Example 4 were added to 200 g of dichloromethane and stirred. The organic layer was separated and washed three times with 200 g of water. A minute amount of a polymerization inhibitor was added to the organic layer, and the solvent was removed in vacuum. Diisopropyl ether was added to the residue for crystallization. Filtration and drying gave the target compound. White crystals, 27.5 g, yield 95%.

reactant | 4-fluorophenyldiphenylsulfonium bromide | [Br-].FC1=CC=C(C=C1)[S+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | benzyltrimethylammonium 1,1,3,3,3-pentafluoro-2-(methacryloyloxy)propane-1-sulfonate | 0.05 mole, 22.4 g | FC(C(C(F)(F)F)OC(C(=C)C)=O)(S(=O)(=O)[O-])F.C(C1=CC=CC=C1)[N+](C)(C)C
solvent | dichloromethane | 200 g | ClCCl | CH2Cl2
product | 4-fluorophenyldiphenylsulfonium 1,1,3,3,3-pentafluoro-2-(methacryloyloxy)propane-1-sulfonate | yield 95% | FC(C(C(F)(F)F)OC(C(=C)C)=O)(S(=O)(=O)[O-])F.FC1=CC=C(C=C1)[S+](C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C18H14FS.C7H7F5O5S/c19-15-11-13-18(14-12-15)20(16-7-3-1-4-8-16)17-9-5-2-6-10-17;1-3(2)4(13)17-5(6(8,9)10)7(11,12)18(14,15)16/h1-14H;5H,1H2,2H3,(H,14,15,16)/q+1;/p-1
